US07414061B2
N-Cyclopropyl-4-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzamide
As described for Example 71c, 4-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid (100 mg, 0.29 mmol) was converted, using cyclopropylamine instead of cyclopropylmethylamine, to the title compound (14 mg, 12%) which was obtained as an off-white solid. MS: m/e=384.9 [M+H]+.

reactant | 4-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid | 0.29 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C1=CC=C(C(=O)O)C=C1 | C20H15N3O3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-4-[4-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzamide | 14 mg, 12% | C1(CC1)NC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1)=O | C23H20N4O2
